US04013670
Using the synthetic method illustrated in Example 23, 1-ethyl-2-aminomethyl pyrrolidine and 2,2,2-trifluoroethyl 2,5-bis(2,2,2-trifluoroethoxy)benzoate are reacted to provide a white solid, 2,5-bis(2,2,2-trifluoroethoxy)-N-[(1-ethyl-2-pyrrolidyl)methyl]benzamide, m.p. 78°-80° C.

reactant | 1-ethyl-2-aminomethyl pyrrolidine | C(C)N1C(CCC1)CN | C7H16N2
reactant | 2,2,2-trifluoroethyl 2,5-bis(2,2,2-trifluoroethoxy)benzoate | FC(COC1=C(C(=O)OCC(F)(F)F)C=C(C=C1)OCC(F)(F)F)(F)F | C13H9F9O4
product | 2,5-bis(2,2,2-trifluoroethoxy)-N-[(1-ethyl-2-pyrrolidyl)methyl]benzamide | FC(COC1=C(C(=O)NCC2N(CCC2)CC)C=C(C=C1)OCC(F)(F)F)(F)F | C18H22F6N2O3
